US07285563B2
3-(2-Hydroxyethyl)isoquinoline
A solution of 2-(4-hydroxybut-1-ynyl)benzaldehyde (Description 110; 8.50 g, 48.8 mmol) in 2M methanolic ammonia (122 ml, 244 mmol) contained in a Parr flask was heated at 80° C. for 2 hours (approx 35 psi achieved). The cooled mixture was evaporated and the residue purified by column chromatography on silica elution with a gradient rising from 1% MeOH in DCM+0.5% NH4OH to 5% MeOH in DCM+0.5% NH4OH to give the title compound (6.2 g, 73%) as a beige solid.

reactant | 2-(4-hydroxybut-1-ynyl)benzaldehyde | 48.8 mmol, 8.50 g | OCCC#CC1=C(C=O)C=CC=C1 | C11H10O2
reactant | ammonia | 244 mmol, 2M, 122 ml | N | H3N
product | 3-(2-Hydroxyethyl)isoquinoline | 6.2 g, 73% | OCCC=1N=CC2=CC=CC=C2C1 | C11H11NO
